US04833153
3-[2-[(Phenylmethyl)amino]ethyl]-1H-indole-5-carbonitrile
Freshly distilled benzaldehyde (2.96 g) was added to a solution of 3-(2-aminoethyl)-1H-indole-5-carbonitrile (5 g) in absolute ethanol (120 ml). The mixture was heated at reflux for 2 h before cooling to 10°. Sodium borohydride (1 g) was added and the suspension stirred for 2 h. The mixture was reduced to dryness and the residue recrystallised from a mixture of toluene and petroleum ether (b.p. 60°-80°). The solid was washed well with water and dried to give the title compound as a powder (3.8 g), m.p 99°-101°.

reactant | benzaldehyde | 2.96 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-(2-aminoethyl)-1H-indole-5-carbonitrile | 5 g | NCCC1=CNC2=CC=C(C=C12)C#N | C11H11N3
reactant | Sodium borohydride | 1 g | [BH4-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-[2-[(Phenylmethyl)amino]ethyl]-1H-indole-5-carbonitrile | 3.8 g | C1(=CC=CC=C1)CNCCC1=CNC2=CC=C(C=C12)C#N | C18H17N3
